US07132547B2
Ethyl (±)-6-(3-chloropropyl)-1,3-dimethyl-2,5-dioxo-2,3,5,6,7,8-hexahydro-1H-naphtho[2,3-d]imidazole-6-carboxylate
60% Oily sodium hydride (832 mg) was added to a solution of ethyl (±)-1,3-dimethyl-2,5-dioxo-2,3,5,6,7,8-hexahydro-1H-naphtho[2,3-d]imidazole-6-carboxylate (5.0 g) obtained in Reference Example 138 in dimethylformamide, and the mixture was stirred at 60° C. for 1 hour. 1-Bromo-3-chloropropane was added thereto, and the mixture was stirred at 60° C. for 4 hours. The reaction mixture was allowed to cool, and water was added to decompose excessive sodium hydride. Then, the mixture was extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale yellow oil.

reactant | sodium hydride | 832 mg | [H-].[Na+]
reactant | ethyl (±)-1,3-dimethyl-2,5-dioxo-2,3,5,6,7,8-hexahydro-1H-naphtho[2,3-d]imidazole-6-carboxylate | 5.0 g | CN1C(N(C2=C1C=C1CCC(C(C1=C2)=O)C(=O)OCC)C)=O | C16H18N2O4
reactant | 1-Bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl (±)-6-(3-chloropropyl)-1,3-dimethyl-2,5-dioxo-2,3,5,6,7,8-hexahydro-1H-naphtho[2,3-d]imidazole-6-carboxylate | ClCCCC1(C(C2=CC3=C(N(C(N3C)=O)C)C=C2CC1)=O)C(=O)OCC | C19H23ClN2O4
